US07393858B2
(i) 1,1-Dimethylethyl 4-hydroxy-4-(3-trimethylsilyloxypropynyl)-1-piperidinecarboxylate
Trimethyl(2-propynyloxy)silane (11.54 ml, 9.62 g, 75 mmol) was added dropwise to a stirred, cooled (−5° C.) solution of ethyl magnesium bromide (1M in tetrahydrofuran, 75 ml, 75 mmol) in tetrahydrofuran (150 ml), maintaining the internal temperature below 0° C. The mixture was stirred at 0° C. for 30 minutes, then at room temperature for 90 minutes. The mixture was cooled to −5° C. and 1,1-dimethylethyl 4-oxo-1-piperidinecarboxylate (15.0 g, 75 mmol) was added slowly, maintaining the internal temperature below 0° C. The mixture was stirred at 0° C. for 3 hours then at room temperature for 96 hours. Saturated aqueous ammonium chloride (300 ml), water (100 ml) and ethyl acetate (300 ml) were added and the layers were separated. The aqueous layer was extracted with ethyl acetate (200 ml) and the combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure to give the title compound (24.4 g, 100%).

reactant | Trimethyl(2-propynyloxy)silane | 75 mmol, 11.54 ml, 9.62 g | C[Si](OCC#C)(C)C | C6H12OSi
reactant | ethyl magnesium bromide | 75 mmol, 1M, 75 ml | C(C)[Mg]Br
reactant | 1,1-dimethylethyl 4-oxo-1-piperidinecarboxylate | 75 mmol, 15.0 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | ammonium chloride | 300 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | 1,1-Dimethylethyl 4-hydroxy-4-(3-trimethylsilyloxypropynyl)-1-piperidinecarboxylate | 24.4 g, 100% | OC1(CCN(CC1)C(=O)OC(C)(C)C)C#CCO[Si](C)(C)C | C16H29NO4Si
